US04440933
A. N-Benzyl-N'-[3-(3-piperidinomethylphenoxy)propyl]ethanediimidamide trihydrochloride
A suspension of 3-benzylamino-4-[3-(3-piperidinomethylphenoxy)propylamino]-1,2,5-thiadiazole 1-oxide (5.14 g; 11.3 mmoles) [prepared according to the procedure of U.S. Pat. No. 4,374,248] in 100 ml of methanol was treated with 7.55 ml of concentrated HCl. After stirring at ambient temperature for 3 hours, the solution was concentrated and the residue was triturated with acetone, filtered and dried to give 5.16 g (88%) of the title compound, mp 187°-205° C. (dec.).

reactant | 3-benzylamino-4-[3-(3-piperidinomethylphenoxy)propylamino]-1,2,5-thiadiazole 1-oxide | 11.3 mmoles, 5.14 g | C(C1=CC=CC=C1)NC1=NS(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)=O | C24H31N5O2S
reactant | HCl | 7.55 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | N-Benzyl-N'-[3-(3-piperidinomethylphenoxy)propyl]ethanediimidamide trihydrochloride | 5.16 g, 88% | Cl.Cl.Cl.C(C1=CC=CC=C1)NC(C(NCCCOC1=CC(=CC=C1)CN1CCCCC1)=N)=N | InChI=1S/C24H33N5O.3ClH/c25-23(24(26)28-18-20-9-3-1-4-10-20)27-13-8-16-30-22-12-7-11-21(17-22)19-29-14-5-2-6-15-29;;;/h1,3-4,7,9-12,17H,2,5-6,8,13-16,18-19H2,(H2,25,27)(H2,26,28);3*1H
